US06197800B1
0.368 g of 4-cyclopentyloxy-3,5-dimethoxybenzaldehyde (“A”) and 0.52 g of ethyl 2-(2,1,3-benzothiadiazol-5-yl)-4-(4-methoxyphenyl)-4-oxobutanoate, m.p. 89° (obtainable by reaction of 5.5 g of ethyl 2-(2,1,3-benzothiadiazol-5-yl)acetate with 5.5 g of 2′-bromo-4-methoxyacetophenone and 4 g of potassium carbonate in 200 ml of acetone, 18 hours under reflux; ethyl 2-(2,1,3-benzothiadiazol-5-yl)acetate, m.p. 40-41° is obtained by reaction of 24.3 g of ethyl 3,4-diaminophenylacetate and 26.9 ml of thionylaniline in 80 ml of toluene, 4 hours under reflux) are added to a solution of 34 mg of sodium in 10 ml of ethanol and the mixture is heated under reflux for one hour. After addition of 1.4 ml of acetic acid, it is heated for a further 16 hours. The solvent is removed and the residue is worked up in the customary manner. 3-(2,1,3-Benzothiadiazol-5-yl)-4-(4-cyclopentyloxy-3,5-dimethoxy-benzyl)-5-hydroxy-5-(4-methoxyphenyl)-5H-furan-2-one is obtained, FAB 575.

reactant | 4-cyclopentyloxy-3,5-dimethoxybenzaldehyde | 0.368 g | C1(CCCC1)OC1=C(C=C(C=O)C=C1OC)OC | C14H18O4
reactant | ethyl 2-(2,1,3-benzothiadiazol-5-yl)-4-(4-methoxyphenyl)-4-oxobutanoate | 0.52 g | N=1SN=C2C1C=CC(=C2)C(C(=O)OCC)CC(=O)C2=CC=C(C=C2)OC | C19H18N2O4S
reactant | ethyl 2-(2,1,3-benzothiadiazol-5-yl)acetate | 5.5 g | N=1SN=C2C1C=CC(=C2)CC(=O)OCC | C10H10N2O2S
reactant | potassium carbonate | 4 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 3,4-diaminophenylacetate | 24.3 g | NC=1C=C(C=CC1N)CC(=O)OCC | C10H14N2O2
reactant | thionylaniline | 26.9 ml | S(=O)=NC1=CC=CC=C1 | C6H5NOS
reactant | sodium | 34 mg | [Na] | Na
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | acetic acid | 1.4 ml | C(C)(=O)O | C2H4O2
product | 3-(2,1,3-Benzothiadiazol-5-yl)-4-(4-cyclopentyloxy-3,5-dimethoxy-benzyl)-5-hydroxy-5-(4-methoxyphenyl)-5H-furan-2-one | N=1SN=C2C1C=CC(=C2)C=2C(OC(C2CC2=CC(=C(C(=C2)OC)OC2CCCC2)OC)(C2=CC=C(C=C2)OC)O)=O | C31H30N2O7S
